US07960407B2
To a clean, nitrogen-purged 1 L hydrogenation reactor were charged 5% Pt/C (625 mg), benzyl 4-(2,6-dimethyl-3-nitropyridin-4-ylamino)phenethylcarbamate hydrochloride (25.0 g, 54.7 mmoles) and methanol (550 mL). The reaction was stirred for at least 15 minutes and then purged sequentially with nitrogen and hydrogen. The reaction was then pressurized with hydrogen to between 18 and 25 psi at between 22° C. and 28° C. until HPLC showed no starting material remained. The reaction was purged with nitrogen and the catalyst was filtered on a water-wet celite-coated filter and the cake was washed with methanol (125 mL). The resulting solution of benzyl 4-(3-amino-2,6-dimethylpyridin-4-ylamino)phenethylcarbamate hydrochloride was transferred to a clean and dry nitrogen-purged 1 L round-bottom flask. Methanol was displaced atmospherically with 2-propanol to a final volume of approximately 125 mL. The reaction was then cooled to between 15° C. and 25° C. over at least 60 minutes and sampled for KF. The reaction was then filtered and washed with 2-propanol (75 mL). After blowing the cake with nitrogen for at least 15 minutes and drying under vacuum at 40° C. to 50° C. with nitrogen bleed for at least 12 hours, 21.0 g (49.2 mmoles) of benzyl 4-(3-amino-2,6-dimethylpyridin-4-ylamino)phenethylcarbamate hydrochloride was isolated in 89.9% yield.

reactant | benzyl 4-(2,6-dimethyl-3-nitropyridin-4-ylamino)phenethylcarbamate hydrochloride | 54.7 mmoles, 25.0 g | Cl.CC1=NC(=CC(=C1[N+](=O)[O-])NC1=CC=C(CCNC(OCC2=CC=CC=C2)=O)C=C1)C
catalyst | Pt/C | 625 mg | [Pt] | Pt
solvent | methanol | 550 mL | CO | CH4O
product | benzyl 4-(3-amino-2,6-dimethylpyridin-4-ylamino)phenethylcarbamate hydrochloride | 49.2 mmoles, 21.0 g, 89.9% yield | Cl.NC=1C(=NC(=CC1NC1=CC=C(CCNC(OCC2=CC=CC=C2)=O)C=C1)C)C | InChI=1S/C23H26N4O2.ClH/c1-16-14-21(22(24)17(2)26-16)27-20-10-8-18(9-11-20)12-13-25-23(28)29-15-19-6-4-3-5-7-19;/h3-11,14H,12-13,15,24H2,1-2H3,(H,25,28)(H,26,27);1H
